### PR TITLE
Add formalisation of Erdos Problem 448

### LINKED ISSUE #4273: Plan to formalise Erdos Problem #448 (statement-only)
I plan to formalise **Erdős Problem #448** ([erdosproblems.com/448](https://www.erdosproblems.com/448)).

**Scope:** statement-only. The problem asks whether, for every epsilon > 0, one has tau+(n) < epsilon * tau(n) for almost all n, where tau+(n) counts the dyadic blocks [2^k, 2^{k+1}) containing a divisor of n. The answer is **no** -- disproved by Erdos-Tenenbaum [ErTe81]. Since the disproof is analytic, I formalise the statement as `answer(False) <-> ...` with a `sorry` proof, plus a few kernel-checked supporting facts (tau+(6)=3, tau+(12)=4, tau+(n) <= tau(n)).

Opening this to claim the problem and avoid duplicate work. PR to follow.

_Disclosure: prepared with the assistance of an AI tool (Claude)._

### PR DESCRIPTION
**Pull request by hbakkaoui-hash**
Adds `FormalConjectures/ErdosProblems/448.lean`.

**Reference:** [erdosproblems.com/448](https://www.erdosproblems.com/448)

**Statement-only** (the main theorem proof is `sorry`): the problem is **disproved** by Erdos-Tenenbaum [ErTe81], and the disproof is analytic, so only the statement is formalised, as `answer(False) <-> for all eps > 0, {n | tau+(n) < eps * tau(n)}.HasDensity 1`.

**Supporting results, fully proved (no `sorry`):**
- `tauPlus_six : tau+(6) = 3`, `tauPlus_twelve : tau+(12) = 4` -- kernel-checked witnesses (`decide`).
- `tauPlus_le_tau : tau+(n) <= tau(n)` -- via `Finset.card_image_le`.

`tauPlus` is defined inline as `(n.divisors.image (Nat.log 2)).card`.

Closes #4273.

_Disclosure: this contribution was prepared with the assistance of an AI tool (Claude)._

### CODE REVIEW

**Comment by hbakkaoui-hash** [comment]
@googlebot I signed it!

File: FormalConjectures/ErdosProblems/448.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 448
+
+*References:*
+- [erdosproblems.com/448](https://www.erdosproblems.com/448)
+- [Er79], [Er79e], [ErGr80, p.89], [Er81h, p.173]
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/448.lean]:
```suggestion
- [Er79] Erdős, Paul, Some unconventional problems in number theory. Math. Mag. (1979), 67-70.
- [Er79e] Erdős, Paul, Some unconventional problems in number theory. Astérisque (1979), 73-82. 
- [HaTe88] Hall, Richard R. and Tenenbaum, Gérald, Divisors. (1988), xvi+167. 
```

**Review by danielchin — CHANGES_REQUESTED** [review]
Could you also add the three other variants of this problem in secondary text from the Erdos Problems website to this file as well? The three additional ones I see are

- This is false, and was disproved by Erdős and Tenenbaum [[ErTe81]](https://www.erdosproblems.com/448#bib-container448), who showed that in fact the upper density of the set of such 𝑛 is  ≍𝜖1−𝑜⁡(1) (where the 𝑜⁡(1) in the exponent  →0 as 𝜖 →0).
- A more precise result was proved by Hall and Tenenbaum [[HaTe88]](https://www.erdosproblems.com/448#bib-container448) (see Section 4.6), who showed that the upper density is  ≪𝜖⁢log⁡(2/𝜖). Hall and Tenenbaum further prove that 𝜏+⁡(𝑛)/𝜏⁡(𝑛) has a distribution function.
- Erdős and Graham also asked whether there is a good inequality known for...

**Comment by hbakkaoui-hash** [comment]
Thanks for the review, @danielchin! Done:

- Applied the references suggestion.
- Added the three further results from the secondary text as statement-only variants (proofs `sorry`):
  - `variants.erdos_tenenbaum` — upper density of `{n | τ⁺(n) < ε·τ(n)}` is `≍ ε^{1-o(1)}` (Erdős–Tenenbaum [ErTe81]);
  - `variants.hall_tenenbaum_upper_bound` — that upper density is `≪ ε·log(2/ε)` ([HaTe88, §4.6]);
  - `variants.hall_tenenbaum_distribution` — `τ⁺(n)/τ(n)` has a distribution function ([HaTe88, §4.6]);
  - `variants.ford` — `∑_{n≤x} τ⁺(n) ≍ x·(log x)^{1-α}/(log log x)^{3/2}` with `α = 1-(1+log log 2)/log 2`, answering the Erdős–Graham question (Ford [Fo08]).
- Added the [Fo08] reference.

Happy to adjust any of the formulations if you'd prefer a different convention.

File: FormalConjectures/ErdosProblems/448.lean [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+Hall and Tenenbaum [HaTe88, §4.6] further prove that `τ⁺(n)/τ(n)` has a distribution function:
+there is a function `F` such that, for every `z`, the set `{n | τ⁺(n)/τ(n) ≤ z}` has density `F z`. -/
+@[category research solved, AMS 11]
+theorem erdos_448.variants.hall_tenenbaum_distribution :
+    ∃ F : ℝ → ℝ, ∀ z : ℝ,
+      {n : ℕ | (tauPlus n : ℝ) / (n.divisors.card : ℝ) ≤ z}.HasDensity (F z) := by
+  sorry
+
+/-- The exponent in Ford's estimate below: `α = 1 - (1 + log log 2)/log 2 = 0.08607…`. -/
+noncomputable def fordExponent : ℝ := 1 - (1 + Real.log (Real.log 2)) / Real.log 2
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/448.lean]: You could just inline this down below to be honest. It's only being used in one place.

File: FormalConjectures/ErdosProblems/448.lean [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+existence of a distribution function for `τ⁺(n)/τ(n)` were later established by Hall and
+Tenenbaum [HaTe88, §4.6].
+-/
+@[category research solved, AMS 11]
+theorem erdos_448 : answer(False) ↔
+    ∀ ε : ℝ, 0 < ε →
+      {n : ℕ | (tauPlus n : ℝ) < ε * (n.divisors.card : ℝ)}.HasDensity 1 := by
+  sorry
+
+open Filter Asymptotics Topology
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/448.lean]: Move this above line 33 to keep consistent with the structure.

File: FormalConjectures/ErdosProblems/448.lean [hunk 4]
```diff
@@ -0,0 +1,124 @@
...
+A more precise result of Hall and Tenenbaum [HaTe88, §4.6]: the upper density of
+`{n | τ⁺(n) < ε·τ(n)}` is `≪ ε·log(2/ε)` as `ε → 0⁺`. -/
+@[category research solved, AMS 11]
+theorem erdos_448.variants.hall_tenenbaum_upper_bound :
+    (fun ε : ℝ => ({n : ℕ | (tauPlus n : ℝ) < ε * (n.divisors.card : ℝ)}).upperDensity)
+      =O[𝓝[>] (0 : ℝ)] (fun ε : ℝ => ε * Real.log (2 / ε)) := by
+  sorry
+
+/--
+Hall and Tenenbaum [HaTe88, §4.6] further prove that `τ⁺(n)/τ(n)` has a distribution function:
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/448.lean]:
```suggestion
Hall and Tenenbaum [HaTe88] further prove that `τ⁺(n)/τ(n)` has a distribution function:
```

**Review by danielchin — CHANGES_REQUESTED** [review]
One overall comment, your docstrings use a backtick to wrap equations. We prefer to render the docstring equations in LaTeX, so wrapping equations in `$` would be better.

**Comment by hbakkaoui-hash** [comment]
Thanks for the detailed review, @danielchin! Addressed all points in fb1322e:

- Docstring equations are now rendered in LaTeX (`$…$`) rather than backticks.
- Inlined the Ford exponent at its single use site (removed the `fordExponent` def).
- Moved `open Filter Asymptotics Topology` to the top of the namespace.
- Dropped the `§4.6` locator in the distribution-function docstring.

Let me know if you'd like any further adjustments.

File: FormalConjectures/ErdosProblems/448.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/448.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/448.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+Let $\tau(n)$ count the divisors of $n$ and $\tau^+(n)$ count the number of $k$ such that $n$ has a
+divisor in $[2^k, 2^{k+1})$. Is it true that, for all $\epsilon > 0$,
+$$ \tau^+(n) < \epsilon \cdot \tau(n) $$
+for almost all $n$?
+
+The answer is **no**. This was disproved by Erdős and Tenenbaum [ErTe81], who showed that the upper
+density of the set of such $n$ is $\asymp \epsilon^{1 - o(1)}$ (the exponent $o(1) \to 0$ as
+$\epsilon \to 0$); in particular this set does not have density $1$ for small $\epsilon$. A sharper
+bound $\ll \epsilon \log(2/\epsilon)$ and the existence of a distribution function for
+$\tau^+(n)/\tau(n)$ were later established by Hall and Tenenbaum [HaTe88, §4.6].
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/448.lean]: instead of paraphrasing here, consider just quoting erdosproblems.com  verbatim

**Review by mo271 — APPROVED** [review]
Thanks, lgtm, only two minor nits

**Comment by hbakkaoui-hash** [comment]
Thanks for the review and approval, @mo271! Both nits addressed in c039dee:

- Bumped the copyright year to 2026.
- Replaced the paraphrase with the verbatim erdosproblems.com/448 secondary text in the main docstring.

**Comment by mo271** [comment]
Thanks again! 
Also to @danielchin for the careful review!
